US04985440
A solution of 2 g (5.3 mmol) of ethyl 2-[3-(1-methyl-1H-imidazol-2-yl)-2H-1-benzopyran-6-yl]oxy-2-methylpropanoate in 30 ml of absolute ethanol is treated with gaseous HCl for 15 min, with external cooling. The solution is treated, under vigorous stirring, with 100 ml of ether. The precipitate is filtered, washed with ether and dried under vacuum, giving 1.95 g of ethyl 2-[3-(1-methyl-1H-imidazol-2-yl)-2H-1-benzopyran-6-yl]oxy-2-methylpropanoate hydrochloride, m.p. 154°-156° C.

reactant | ethyl 2-[3-(1-methyl-1H-imidazol-2-yl)-2H-1-benzopyran-6-yl]oxy-2-methylpropanoate | 5.3 mmol, 2 g | CN1C(=NC=C1)C=1COC2=C(C1)C=C(C=C2)OC(C(=O)OCC)(C)C | C19H22N2O4
reactant | HCl | Cl | ClH
reactant | ether | 100 ml | CCOCC | C4H10O
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | ethyl 2-[3-(1-methyl-1H-imidazol-2-yl)-2H-1-benzopyran-6-yl]oxy-2-methylpropanoate hydrochloride | 1.95 g | Cl.CN1C(=NC=C1)C=1COC2=C(C1)C=C(C=C2)OC(C(=O)OCC)(C)C | InChI=1S/C19H22N2O4.ClH/c1-5-23-18(22)19(2,3)25-15-6-7-16-13(11-15)10-14(12-24-16)17-20-8-9-21(17)4;/h6-11H,5,12H2,1-4H3;1H
